US06835732B2
(4-Methoxy-benzothiazol-2-yl)-carbamic acid methyl ester
2-Amino-4-methoxybenzothiazol (23.6 g, 131 mmol) and pyridine (12.6 ml, 157 mmol) in dichloromethane (230 ml) are slowly treated with methyl chloroformate (10.6 ml, 137 mmol) at 0° C. After 10 minutes, further methyl chloroformate (1.0 ml, 13 mmol) and pyridine (1.0 ml, 12 mmol) are added. After 10 minutes, the mixture is poured into 200 ml 1M aqueous hydrochloric acid, the organic layer is separated, diluted with dichloromethane (250 ml) and washed with brine (50 ml). The organic phase is dried and the solvent evaporated in vacuo. 31.0 g (99.4%) white solid. MS: m/e=238 (M+H+).

reactant | 2-Amino-4-methoxybenzothiazol | 131 mmol, 23.6 g | NC=1SC2=C(N1)C(=CC=C2)OC | C8H8N2OS
reactant | pyridine | 157 mmol, 12.6 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 137 mmol, 10.6 ml | ClC(=O)OC | C2H3ClO2
reactant | methyl chloroformate | 13 mmol, 1.0 ml | ClC(=O)OC | C2H3ClO2
reactant | pyridine | 12 mmol, 1.0 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1M, 200 ml | Cl | ClH
solvent | dichloromethane | 230 ml | ClCCl | CH2Cl2
product | (4-Methoxy-benzothiazol-2-yl)-carbamic acid methyl ester | COC(NC=1SC2=C(N1)C(=CC=C2)OC)=O | C10H10N2O3S
